US04490531
3-(4'-Hydroxybenzyl)pyridine
A solution of sodium nitrite (0.350 g) in water (1.5 ml) is cooled in ice, and added, with stirring, to a cold (ice-bath) solution of 3-(4'-aminobenzyl)pyridine (Preparation 8, 0.920 g, 0.0050 mole) in water (3.75 ml), concentrated sulfuric acid (2.5 ml), and ice (7 g). This solution in turn is added dropwise to a third solution of water (5 ml) and sulfuric acid (6.25 ml) that is maintained at 160° C. in an oil bath. The resulting solution is kept at 160° C. for 10 min and then cooled to room temperature. The pH of the solution is adjusted to 7.0 by addition of aqueous 50% sodium hydroxide. The resulting mixture is extracted 4 times with 25 ml of ether. The aqueous portion is further extracted continuously with ether for 40 hr. The ether extracts are washed with brine, dried over MgSO4, filtered, and concentrated under reduced pressure. The crystalline residue is decolorized with activated charcoal and is recrystallized from acetone-hexane, giving a first crop (0.426 g) of the titled crystals, with a melting point of 182°-185° C. A second crop (0.034 g) and third crop (0.050 g, total 0.510 g, 0.00276 mole, 55%) of titled crystals are also obtained. Recrystallization of the first crop from acetone-hexane gives the titled product as colorless crystals with a melting point of 184°-186° C. IR (nujol) peaks are observed at 2900, 2800, 2720, 2680, 2600, 1615, 1590, 1580, 1515, 1485, 1280, 1250, 845, 800, 710, and 640 cm-1.

reactant | sodium nitrite | 0.350 g | N(=O)[O-].[Na+]
reactant | 3-(4'-aminobenzyl)pyridine | 0.0050 mole, 0.920 g | NC1=CC=C(CC=2C=NC=CC2)C=C1 | C12H12N2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 1.5 ml | O | H2O
solvent | water | 3.75 ml | O | H2O
solvent | sulfuric acid | 2.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 6.25 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 5 ml | O | H2O
product | 3-(4'-Hydroxybenzyl)pyridine | 0.426 g | OC1=CC=C(CC=2C=NC=CC2)C=C1 | C12H11NO
